US05595686
Preparation of trans, trans-(4-(4-n-pentyl-4-silacyclohexyl)-4-silacyclohexyl) 4-cyanobenzoate
The general procedure of Example 31 was repeated using 4-cyanobenzoic acid and 4-(4-phenyl-4-n-pentyl-4-silacyclohexyl)-4-silacyclohexanol, thereby obtaining the intended product.

reactant | 4-cyanobenzoic acid | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | 4-(4-phenyl-4-n-pentyl-4-silacyclohexyl)-4-silacyclohexanol | C1(=CC=CC=C1)[Si]1(CCC(CC1)[SiH]1CCC(CC1)O)CCCCC | C21H36OSi2
product | trans-(4-(4-n-pentyl-4-silacyclohexyl)-4-silacyclohexyl) 4-cyanobenzoate | C(#N)C1=CC=C(C(=O)O[C@@H]2CC[Si@H](CC2)C2CC[SiH](CC2)CCCCC)C=C1 | C23H35NO2Si2
